US04563211
A mixture of 7.8 g (36 mmol) of ethyl 2-oxo-4-phenoxybutanoate and 3.4 g (38 mmol) guanidine carbonate was heated to reflux in 100 ml abs. ethanol for 48 hours. Filtration of the cooled suspension afforded 4.6 g of 2-amino-4-hydroxy-6-phenoxymethylpyrimidine in two crops, m.p. 253°-254° (dec). This intermediate (4.3 g, 20 mmol) was heated to reflux in 50 ml phosphorous oxychloride for 2 hours then evaporated. The residue was treated with ice-water and neutralized with 10% sodium hydroxide solution then extracted with chloroform. Evaporation of the extracts left a residue which was purified by dissolution in 15% ethyl acetate/methylene chloride and filtration through silica gel. The filtrate was concentrated and crystallized from ether/1-chlorobutane/hexanes to yield 0.65 g of 2-amino-4-chloro-6-phenoxymethylpyrimidine, m.p. 123°-124°. An additional 0.8 g was deposited from the original aqueous phase, m.p. 118°-121°, for a total of 1.4 g of product. A 1.0 g (4.2 mmol) portion of this material was reacted with 20 mmol sodium methoxide in 30 ml methanol at reflux for 2 hours, then concentrated in vacuo. The residue was triturated with water, collected, water rinsed and dried to 0.9 g of the title compound, m.p. 94°-96°. NMR (90 MHz, CDCl3): δ 3.83 (s, 3H); 4.90 (s, 2H); 6.31 (s, 1H); 6.9-7.1 (m, 3H); 7.22-7.45 (m, 2H) ppm.

reactant | ethyl 2-oxo-4-phenoxybutanoate | 36 mmol, 7.8 g | O=C(C(=O)OCC)CCOC1=CC=CC=C1 | C12H14O4
reactant | guanidine carbonate | 38 mmol, 3.4 g | C(O)(O)=O.NC(=N)N
solvent | ethanol | C(C)O | C2H6O
product | 2-amino-4-hydroxy-6-phenoxymethylpyrimidine | 4.6 g | NC1=NC(=CC(=N1)O)COC1=CC=CC=C1 | C11H11N3O2
